US05296485
2-[1-(4-Nitrophenyl)-4-piperidinyl]-1,2,3,4-tetrahydroisoquinoline
3.0 g of 1-(4-nitrophenyl)-4-piperidone and 1.8 g of 1,2,3,4-tetrahydroisoquinoline were reacted as in Example 1.

reactant | 1-(4-nitrophenyl)-4-piperidone | 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
reactant | 1,2,3,4-tetrahydroisoquinoline | 1.8 g | C1NCCC2=CC=CC=C12 | C9H11N
product | 2-[1-(4-Nitrophenyl)-4-piperidinyl]-1,2,3,4-tetrahydroisoquinoline | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)N1CC2=CC=CC=C2CC1 | C20H23N3O2
